US08609656B2
Preparation of 3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)aniline
In 50 mL of tetrahydrofuran, 6.14 g (21 mmol) of (3-amino-5-(trifluoromethyl)phenyl)-(4-methylpiperazin-1-yl)methanone was dissolved, and 65 mL of a borane tetrahydrofuran complex (a 1N tetrahydrofuran solution) was added thereto and the mixture solution was refluxed with stirring for six hours. To the reaction solution, 60 mL of concentrated hydrochloric acid was added dropwise and the mixture solution was stirred at room temperature for 12 hours. The reaction solution was neutralized with solid sodium carbonate and extracted with diethyl ether. The extract was washed with water and a saturated sodium chloride solution and concentrated under reduced pressure, and the residue was recrystallized from hexane and diethyl ether to obtain 1.76 g (30%) of a target product as a white solid.

reactant | (3-amino-5-(trifluoromethyl)phenyl)-(4-methylpiperazin-1-yl)methanone | 21 mmol, 6.14 g | NC=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCN(CC1)C | C13H16F3N3O
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1N | O1CCCC1 | C4H8O
product | 3-(4-methylpiperazin-1-ylmethyl)-5-(trifluoromethyl)aniline | 1.76 g, 30% | CN1CCN(CC1)CC=1C=C(N)C=C(C1)C(F)(F)F | C13H18F3N3
